US04356118
L-Isoleucyl-L-valyl-L-tryptophan hydrochloride.
The title compound is prepared using the previously described procedures and the following reagants: 1.17 g (2.3 mmoles) t-butyloxycarbonyl-isoleucyl-valyl-tryptophan, 10 ml glacial acetic acid and 10 ml 6.07 HCl in dioxane. Total yield was 0.91 g. (88 percent). Analysis calculated for C22H32N4O4.HCl. H2O: C, 56.10; H, 7.49, N, 11.90. Found: C, 56.34; H, 7.48; N, 11.72.

reactant | t-butyloxycarbonyl-isoleucyl-valyl-tryptophan | 2.3 mmoles, 1.17 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C27H40N4O6
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | HCl | Cl | ClH
reactant | H2O | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | L-Isoleucyl-L-valyl-L-tryptophan hydrochloride | Cl.N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | InChI=1S/C22H32N4O4.ClH/c1-5-13(4)18(23)20(27)26-19(12(2)3)21(28)25-17(22(29)30)10-14-11-24-16-9-7-6-8-15(14)16;/h6-9,11-13,17-19,24H,5,10,23H2,1-4H3,(H,25,28)(H,26,27)(H,29,30);1H/t13-,17-,18-,19-;/m0./s1
